US07145012B2
Preparation of Intermediate 5-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-4-(2-oxo-ethyl)-1H-pyrazole-3-carboxylic acid ethyl ester (I-3b)
A solution of 5-(4-chloro-phenyl)-1-(2-chloro-phenyl)-4-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-1H-pyrazole-3-carboxylic acid ethyl ester I-3a (210 mg) in 95:5 acetonitrile:conc. hydrofluoric acid (3 ml) was stirred for 2 hours. The reaction was partitioned between saturated aqueous sodium hydrogen carbonate and ethyl acetate. The organic phase was washed with brine, dried (Na2SO4) and concentrated in vacuo to afford the title compound (I-3b), which was taken directly on to the next reaction.

reactant | 5-(4-chloro-phenyl)-1-(2-chloro-phenyl)-4-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C=COCC[Si](C)(C)C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C25H28Cl2N2O3Si
reactant | hydrofluoric acid | 3 ml | F | FH
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-4-(2-oxo-ethyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1CC=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C20H16Cl2N2O3
